US09108939B2
C: 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(pyridin-4-yl)urea
2-(4-((4-((4-Aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.260 mmol, 120 mg) and phenyl pyridin-4-ylcarbamate (0.390 mmol, 84 mg) were combined in tetrahydrofuran (1 mL) and dioxane (1 mL) and heated to 100° C. overnight. The reaction mixture was concentrated under vacuum. The residue was purified by prep-HPLC (acidic conditions) and SCX chromatography to give the title compound (44.2 mg). MS (ESI) m/z 582.2 [M+H]+

reactant | 2-(4-((4-((4-Aminophenyl)(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.260 mmol, 120 mg | NC1=CC=C(C=C1)N(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C22H25F6N3O
reactant | phenyl pyridin-4-ylcarbamate | 0.390 mmol, 84 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(pyridin-4-yl)urea | 44.2 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)N(C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)C)C=C1)(F)F | C28H29F6N5O2
